US08017607B2
To a mixture of 4-aminomethyl-cyclohexanecarboxylic acid methyl ester (1.008 g, 4.758 mmol, Astatech,) in N,N-dimethyl formamide (20.0 mL) was added TEA (617 mg, 6.098 mmol) and 1,1′-carbonyldiimidazole (810.3 mg, 4.997 mmol, Aldrich,). After it was stirred at rt for 21 hrs under an argon atmosphere, the solvent was removed and the reaction mixture was extracted with EtOAc, and washed with water (2×), and saturated NaCl. The organic phase was separated, dried over Na2SO4, filtered and concentrated to give 4-{[(imidazole-1-carbonyl)-amino]-methyl}cyclohexanecarboxylic acid methyl ester (1.184 g, 4.46 mmol, 93%) which was used without further purification.

reactant | 4-aminomethyl-cyclohexanecarboxylic acid methyl ester | 4.758 mmol, 1.008 g | COC(=O)C1CCC(CC1)CN | C9H17NO2
reactant | 1,1′-carbonyldiimidazole | 4.997 mmol, 810.3 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethyl formamide | 20.0 mL | CN(C=O)C | C3H7NO
product | 4-{[(imidazole-1-carbonyl)-amino]-methyl}cyclohexanecarboxylic acid methyl ester | 4.46 mmol, 1.184 g, 93% | COC(=O)C1CCC(CC1)CNC(=O)N1C=NC=C1 | C13H19N3O3
